US04003965
This example shows the preparation of a phosphinate compound, i.e., a compound having two P--C bonds. It also shows the use of a thiourea as a reactant. When equimolar quantities of bis(2-chloroethyl) methylphosphonite, p-chlorophenylacetaldehyde, and phenylthiourea are warmed at 90°-110° C for 1 hour, 2-chloroethyl [1-(3-phenylthioureido)-2-(p-chlorophenyl) ethyl]methylphosphinate is formed. Hydrolysis gives the corresponding phosphinic acid.

reactant | phosphinate | [PH2]([O-])=O
reactant | thiourea | NC(=S)N | CH4N2S
reactant | bis(2-chloroethyl) methylphosphonite | CP(OCCCl)OCCCl | C5H11Cl2O2P
reactant | p-chlorophenylacetaldehyde | ClC1=CC=C(C=C1)CC=O | C8H7ClO
reactant | phenylthiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
product | 2-chloroethyl [1-(3-phenylthioureido)-2-(p-chlorophenyl) ethyl]methylphosphinate | C1(=CC=CC=C1)NC(NC(CC1=CC=C(C=C1)Cl)P(OCCCl)(=O)C)=S | C18H21Cl2N2O2PS
